US08686022B2
(22) 1-methyl-7-[4-(4-methyl-piperazine-1-carbonyl)-piperidin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide
1-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperidine-4-carboxylic acid and 1-methylpiperazine are used as reactants. Tetrahydrofuran is used instead of N,N-dimethylformamide.

reactant | 1-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperidine-4-carboxylic acid | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCC(CC1)C(=O)O)C)OC)NS(=O)(=O)C | C29H38N4O6S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | Tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-methyl-7-[4-(4-methyl-piperazine-1-carbonyl)-piperidin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCC(CC1)C(=O)N1CCN(CC1)C)C)OC)NS(=O)(=O)C | C34H48N6O5S
